US04617316
A stirred mixture of 38.1 g (0.23 mole) of 2-methoxy-4-nitroaniline and 38.1 g (0.6 mole) of copper powder in 953.0 g (11.33 mole) of thiophene was heated at 55° C. During a 1.1 hour period 40.5 ml (0.34 mole) of t-butylnitrite was added to the warm reaction mixture. After complete addition the mixture was heated at 70° C. for approximately 18 hours then cooled to room temperature. The solvent was removed from the reaction mixture by distillation under reduced pressure to leave a residue. The residue was purified by column chromatography on silica gel, eluting with heptane:toluene (25:75), to yield 29.0 g of 2-(2-methoxy-4-nitrophenyl)thiophene.

reactant | 2-methoxy-4-nitroaniline | 0.23 mole, 38.1 g | COC1=C(N)C=CC(=C1)[N+](=O)[O-] | C7H8N2O3
reactant | thiophene | 11.33 mole, 953.0 g | S1C=CC=C1 | C4H4S
reactant | t-butylnitrite | 0.34 mole, 40.5 ml | C(C)(C)(C)ON=O | C4H9NO2
catalyst | copper | 0.6 mole, 38.1 g | [Cu] | Cu
product | 2-(2-methoxy-4-nitrophenyl)thiophene | 29.0 g | COC1=C(C=CC(=C1)[N+](=O)[O-])C=1SC=CC1 | C11H9NO3S
